US09388195B2
A) Production of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-(trifluoromethyl)-1-trityl-1H-pyrazole
4-Bromo-3-(trifluoromethyl)-1-trityl-1H-pyrazole (3.45 g), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (5.75 g), potassium acetate (3.70 g) and N,N-dimethylformamide (30 mL) were placed in a flask, and the atmosphere in the flask was purged with argon. [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) dichloride-dichloromethane complex (1:1)(621 mg) was added, the atmosphere in the flask was purged again with argon, and the mixture was stirred at 80° C. for 15 hr. Ethyl acetate (50 mL) and water (50 mL) were added to the reaction mixture, and the separated aqueous layer was extracted with ethyl acetate (30 mL×2). The combined organic layers were washed with brine (50 mL) and dried over anhydrous magnesium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and the object fraction was concentrated under reduced pressure to give the title compound (3.81 g) as a colorless solid.

reactant | 4-Bromo-3-(trifluoromethyl)-1-trityl-1H-pyrazole | 3.45 g | BrC=1C(=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C23H16BrF3N2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 5.75 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 3.70 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-(trifluoromethyl)-1-trityl-1H-pyrazole | 3.81 g | CC1(OB(OC1(C)C)C=1C(=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F)C | C29H28BF3N2O2
